US09447030B2
To a solution of N-(2-amino-5-bromophenyl)pyrrolidine-1-carboxamide (0.26 g, 0.72 mmol) in THF (10 mL) and water (5 mL) were added pyridin-3-ylboronic acid (0.13 g, 1.07 mmol, 1.5 equiv.), sodium bicarbonate (0.11 g, 1.07 mmol, 1.5 equiv.) and palladium(0) (0.08 g, 0.07 mmol, 0.1 equiv.). The reaction mass was stirred at 90° C. for sixteen hours. The reaction crude was filtered on a celite bed and diluted in ethyl acetate. The organic layers were washed with water and brine then dried over Na2SO4 and concentrated. The residue was purified by column chromatography on eluting ethyl acetate and hexane to allow N-(2-amino-5-(pyridin-3-yl)phenyl)pyrrolidine-1-carboxamide (0.14 g, 63% yield).

reactant | N-(2-amino-5-bromophenyl)pyrrolidine-1-carboxamide | 0.72 mmol, 0.26 g | NC1=C(C=C(C=C1)Br)NC(=O)N1CCCC1 | C11H14BrN3O
reactant | pyridin-3-ylboronic acid | 1.07 mmol, 0.13 g, 1.5 equiv. | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium bicarbonate | 1.07 mmol, 0.11 g, 1.5 equiv. | C([O-])(O)=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
catalyst | palladium(0) | 0.07 mmol, 0.08 g, 0.1 equiv. | [Pd] | Pd
product | N-(2-amino-5-(pyridin-3-yl)phenyl)pyrrolidine-1-carboxamide | 0.14 g, 63% yield | NC1=C(C=C(C=C1)C=1C=NC=CC1)NC(=O)N1CCCC1 | C16H18N4O
